US09334278B2
To a stirred solution of 2-bromo-3-chloro-pyrrolo[2,3-b]pyrazine-5-carboxylic acid tert-butyl ester (6.0 g, 18.0 mmol) in 1,4-dioxane (100 mL) was added methanal (5.4 g, 180.4 mmol) and 1 M NaOH solution (54 mL) and the reaction mixture was stirred at room temperature for 16 h. 1.2 N HCl was added into the reaction mixture until the mixture reached pH 7. The reaction mixture was concentrated in vacuo and the residue obtained was diluted with water (50 mL) and extracted with ethyl acetate (150 mL×3). The organic layers were combined and concentrated in vacuo to give (2-bromo-3-chloro-7-hydroxymethyl-pyrrolo[2,3-b]pyrazin-5-yl)-methanol (4.4 g, 83%) as yellow solid. LC-MS: 292.2 (M−H). This was used directly without further purification.

reactant | 2-bromo-3-chloro-pyrrolo[2,3-b]pyrazine-5-carboxylic acid tert-butyl ester | 18.0 mmol, 6.0 g | C(C)(C)(C)OC(=O)N1C=CC=2C1=NC(=C(N2)Br)Cl | C11H11BrClN3O2
reactant | methanal | 180.4 mmol, 5.4 g | C=O | CH2O
reactant | NaOH | 1 M, 54 mL | [OH-].[Na+]
reactant | HCl | 1.2 N | Cl | ClH
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
product | (2-bromo-3-chloro-7-hydroxymethyl-pyrrolo[2,3-b]pyrazin-5-yl)-methanol | 4.4 g, 83% | BrC=1N=C2C(=NC1Cl)N(C=C2CO)CO | C8H7BrClN3O2
